US04316904
4,5-Dihydro-5-methyl-4-oxopyrano[3,2-b]indole-2-carboxamide
A suspension of 11.0 g (40.7 mmole) of ethyl 4,5-dihydro-5-methyl-4-oxopyrano[3,2-b]indole-2-carboxylate in 500 ml ethanol was stirred in ice while gaseous ammonia was added until the reaction mixture temperature reached 20° C. (ca. 10 min). The ice bath was removed, and stirring at room temperature was continued for a total of 24 hr. The light yellow solid was filtered and washed with a little cold ethanol. Recrystallization from 50% aqueous DMF gave light yellow needles of mp >295° C.

reactant | ethyl 4,5-dihydro-5-methyl-4-oxopyrano[3,2-b]indole-2-carboxylate | 40.7 mmole, 11.0 g | CN1C2=C(C=3C=CC=CC13)OC(=CC2=O)C(=O)OCC | C15H13NO4
reactant | ammonia | N | H3N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4,5-Dihydro-5-methyl-4-oxopyrano[3,2-b]indole-2-carboxamide | CN1C2=C(C=3C=CC=CC13)OC(=CC2=O)C(=O)N | C13H10N2O3
